US06124314
Methanesulfonyl chloride (4.170 g, 36.4 mmol) was added to a solution of 3-methoxybenzylamine (5.000 g, 36.4 mmol) and triethylamine (3.946 g, 39.0 mmol) in THF (100 mL) at room temperature. The mixture was stirred for 18 h and the insolubles were removed by filtration. The organic solution was concentrated to a yellow oil which was purified by flash chromatography (6:4 hexanes:EtOAc to 1:1 hexanes:EtOAc) to yield N-(3-methoxy-benzyl)-methanesulfonamide (7.431 g). 1H NMR (400 MHz, CDCl3) δ 7.26 (m, 1H), 6.92-6.82 (m, 3H), 4.62 (m, 1H), 4.28 (d, 2H), 3.80 (s, 3H), 2.87 (s, 3H); MS 214 (M-1).

reactant | Methanesulfonyl chloride | 36.4 mmol, 4.170 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-methoxybenzylamine | 36.4 mmol, 5.000 g | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | triethylamine | 39.0 mmol, 3.946 g | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(3-methoxy-benzyl)-methanesulfonamide | 7.431 g | COC=1C=C(CNS(=O)(=O)C)C=CC1 | C9H13NO3S
